US06281227B1
B. (3-Iodo-pyridin-4-yl)-carbamic acid tert-butyl ester
Di-tert-butyl dicarbonate (20.7 g, 94.8 mmol) is added to a solution of 4-amino-3-iodo-pyridin (19.0 g, 86.4 mmol) in THF (86 mL). The resulting solution is stirred for 2 h at room temperature then concentrated to dryness. The residue is diluted with ethyl acetate and washed with saturated sodium bicarbonate solution and brine. The organic layer is dried over MgSO4, filtered and concentrated to dryness. The residue is purified by column chromatography eluting with 1% EtOAc/CH2Cl2 to give the title product and a small amount of the BOC-protected di-iodo compound. Trituration of the mixture with ether/hexane removes the undesired compound leaving the title product in the solution. Filtration of the solid and concentration of the filtrate yields the title product (18.95 g, 59.2 mmol).

reactant | Di-tert-butyl dicarbonate | 94.8 mmol, 20.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-amino-3-iodo-pyridin | 86.4 mmol, 19.0 g | NC1=C(C=NC=C1)I | C5H5IN2
solvent | THF | 86 mL | C1CCOC1 | C4H8O
product | (3-Iodo-pyridin-4-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=NC=C1)I)=O | C10H13IN2O2
